US07612092B2
1-(2-Chloro-4-{6-[4-(2-diethylaminoethoxy)-phenyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy}phenyl)-3-cyclopropylurea
1-{2-Chloro-4-[6-[4-(2-diethylaminoethoxy)-phenyl]-7-(2-trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]-phenyl}-3-cyclopropylurea (40 mg, 0.0601 mmol) was dissolved in 1 ml of tetrahydrofuran, and then 0.5 ml (8.3 equivalents) of tetrabutylammonium fluoride (1M tetrahydrofuran solution) was added dropwise and the mixture was refluxed for 2 hours. After returning to room temperature, 3 ml of water was added, the mixture was allowed to stand for 3 hours, and the precipitating crystals were filtered out, washed with water and ether:hexane=1:1 and dried under reduced pressure to obtain 22 mg of the title compound.

reactant | 1-{2-Chloro-4-[6-[4-(2-diethylaminoethoxy)-phenyl]-7-(2-trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]-phenyl}-3-cyclopropylurea | 0.0601 mmol, 40 mg | ClC1=C(C=CC(=C1)OC=1C2=C(N=CN1)N(C(=C2)C2=CC=C(C=C2)OCCN(CC)CC)COCC[Si](C)(C)C)NC(=O)NC2CC2 | C34H45ClN6O4Si
reactant | tetrabutylammonium fluoride | 1M, 0.5 ml, 8.3 equivalents | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | 3 ml | O | H2O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 1-(2-Chloro-4-{6-[4-(2-diethylaminoethoxy)-phenyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy}phenyl)-3-cyclopropylurea | 22 mg | ClC1=C(C=CC(=C1)OC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)OCCN(CC)CC)NC(=O)NC2CC2 | C28H31ClN6O3
